US04006145
A solution of 6.5 g of potassium hydroxide in 80 ml of water is treated under a nitrogen atmosphere at 50° C with 10.3 ml of thiophenol and the mixture is then stirred for 30 minutes. After the addition of 0.5 g of copper powder and 22.5 g of 4-chloro-3-nitro-benzotrifluoride in 100 ml of ethanol, the mixture is heated under reflux for 48 hours. After filtration, the mixture is poured into water and extracted with ether. The ethereal phase is washed successively with aqueous sodium carbonate solution, water, aqueous sodium chloride solution, 2-N aqueous hydrochloric acid and water, dried, filtered and evaporated. There is obtained 3-nitro-4-(phenylthio)-benzotrifluoride as a red oil.

reactant | potassium hydroxide | 6.5 g | [OH-].[K+]
reactant | thiophenol | 10.3 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 4-chloro-3-nitro-benzotrifluoride | 22.5 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
solvent | water | 80 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | copper | 0.5 g | [Cu] | Cu
product | 3-nitro-4-(phenylthio)-benzotrifluoride | [N+](=O)([O-])C=1C=C(C=CC1SC1=CC=CC=C1)C(F)(F)F | C13H8F3NO2S
